data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_239835_0,[C@@:1](/[C:3]([N:4]([H:11])[H:12])=[C:5](\[C:2]([H:15])([H:16])[H:17])[H:14])([O:6][H:9])(/[N:7]=[N:8]\[H:13])[H:10]>>[C@:1]1([O:6][H:9])([H:10])[C@:3]([N:4]([H:11])[H:12])(/[N:7]=[N:8]\[H:13])[C@@:5]1([C:2]([H:15])([H:16])[H:17])[H:14],72.49319250002685
MR_289733_1,[C:1](/[C:3]([C:2]([H:12])([H:13])[H:14])=[N:6]\[H:11])([N:4]([H:9])[H:10])([O:5][H:7])[H:8]>>[C:1]1([N:4]([H:9])[H:10])([H:8])[C:3]([C:2]([H:12])([H:13])[H:14])([O:5][H:7])[N:6]1[H:11],59.0684574999996
MR_441826_2,[C:1]([N:3]([C:2]([H:16])([H:17])[H:18])[C:5]([N:6]([H:10])[H:11])([N:7]([H:12])[H:13])/[N:8]=[N:4]/[H:9])([H:14])([H:15])[H:19]>>[C:1]([N:3]([C:2]([H:16])([H:17])[H:18])[N:4]([N:8]=[C:5]([N:6]([H:10])[H:11])[N:7]([H:12])[H:13])[H:9])([H:14])([H:15])[H:19],45.025635000034754
MR_273948_0,[C:1]([C:4]([C:2]([H:14])([H:15])[H:16])=[O:8])(/[C:5]([N:6]([H:9])[H:10])=[C:7](/[C:3]([H:17])([H:18])[H:19])[H:13])([H:11])[H:12]>>[C:1](=[C:5]([N:6]([H:9])[H:10])[C:7]([C:3]([H:17])([H:18])[H:19])([C:4]([C:2]([H:14])([H:15])[H:16])=[O:8])[H:13])([H:11])[H:12],53.06704749999227
MR_532093_0,[C:1]1([C:5]([H:17])([H:18])[H:19])([C:6]([H:20])([H:21])[H:22])[C:2]([N:7]([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[H:16])([H:10])[N:8]1[H:9]>>[C:1](/[C:2](=[N:8]/[H:9])[H:10])([C:5]([H:17])([H:18])[H:19])([C:6]([H:20])([H:21])[H:22])[N:7]([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[H:16],59.58614500001232
MR_146154_0,[C:1]([N:4]([C:5]([N:7]([H:10])[H:11])=[O:9])[N:8]=[C:6]([C:2]([H:16])([H:17])[H:18])[C:3]([H:15])([H:19])[H:20])([H:12])([H:13])[H:14]>>[C:1]([N:4][N:8][C:6]([C:2]([H:16])([H:17])[H:18])([C:3]([H:15])([H:19])[H:20])[C:5]([N:7]([H:10])[H:11])=[O:9])([H:12])([H:13])[H:14],68.73697750002236
MR_171247_1,[C:1]([C:3]([H:17])([H:18])[H:19])([C:4]([H:20])([H:21])[H:22])([C:5]1([C:2]([N:7]([H:13])[H:14])([H:15])[H:16])/[C:6](=[N:9]/[H:12])[N:8]1[H:11])[H:10]>>[C:1]([C:3]([H:17])([H:18])[H:19])([C:4]([H:20])([H:21])[H:22])([C:6](/[C:5]([C:2]([N:7]([H:13])[H:14])([H:15])[H:16])=[N:8]/[H:11])=[N:9]\[H:12])[H:10],60.17662249998395
MR_394701_1,[N:1](/[C:3](=[C:2](/[O:6][H:7])[H:9])[H:10])([C:4](=[C:5]([H:12])[H:13])[H:11])[H:8]>>[N:1](=[C:3](/[C:2]([C:4](=[C:5]([H:12])[H:13])[H:11])([O:6][H:7])[H:9])[H:10])\[H:8],68.65728499997388
MR_394857_0,[C:1]([C:3]([C:2]([H:10])([H:11])[H:12])=[O:6])(/[N:4]=[N:5]\[H:7])([H:8])[H:9]>>[C:1]([N:4][N:5]([C:3]([C:2]([H:10])([H:11])[H:12])=[O:6])[H:7])([H:8])[H:9],63.039277500032966
MR_562328_1,[C:1]1([C:2]([C:3]([H:13])([H:14])[H:17])([H:11])[H:12])([O:6][H:9])[N:5]([H:10])[N:7]1[N:8]=[C:4]([H:15])[H:16]>>[C:1]1([N:5](/[N:7]=[N:8]/[C:4]([H:15])([H:16])[H:17])[H:10])([O:6][H:9])[C:2]([H:11])([H:12])[C:3]1([H:13])[H:14],18.33680499996703
MR_286947_0,[C:1]([N:3]([C:4]([C:2]([H:14])([H:15])[H:16])=[O:7])[N:5]([H:8])[H:9])([N:6]([H:10])[H:11])([H:12])[H:13]>>[C:1]([N:6]([H:10])[H:11])([O:7]/[C:4]([C:2]([H:14])([H:15])[H:16])=[N:3]/[N:5]([H:8])[H:9])([H:12])[H:13],48.78624250002815
MR_389306_1,[C@:1]([O:3][C:2](=[O:7])[H:10])([O:4][H:8])([N:5][O:6])[H:9]>>[C@@:1]1([O:4][H:8])([H:9])[C@@:2]([O:7][N:5][O:6])([H:10])[O:3]1,58.21819500000615
MR_13382_0,[C:1](/[N:4]=[C:3](/[C:2]([H:9])([H:10])[H:11])[H:5])([H:6])([H:7])[H:8]>>[C:1]([N:4]([C:3](=[C:2]([H:9])[H:10])[H:5])[H:11])([H:6])([H:7])[H:8],67.07723999998599
MR_28591_0,[C:1](/[C:2](=[N:4]/[N:3]=[O:5])[H:6])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([H:6])[N:4]=[N:3][O:5]1)([H:7])([H:8])[H:9],29.6638075000115
MR_380426_1,[C:1]([C:2](/[C:4](=[N:9]/[H:15])[H:17])([O:7][H:13])[O:8][H:14])([C:3](=[O:10])[H:16])([O:5][H:11])[O:6][H:12]>>[C:1]([C:2](=[O:7])[O:8][H:14])([C:3](/[C:4](=[N:9]/[H:15])[H:17])([O:10][H:13])[H:16])([O:5][H:11])[O:6][H:12],51.20902000004634
MR_644646_1,[C:1]([C:2](/[C:5]([C:4]([H:18])([H:19])[H:20])=[N:8]/[H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])([N:6]([H:10])[H:11])[O:7][H:9]>>[C:1](\[C:2]([C:5]([C:4]([H:18])([H:19])[H:20])([O:7][H:9])[N:8]([H:11])[H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])=[N:6]/[H:10],41.286990000021575
MR_51559_0,[C:1]([N:3]([C:2]([H:12])([H:13])[H:14])[H:7])([C:4]([N:5]([H:8])[H:9])=[C:6]([H:15])[H:16])([H:10])[H:11]>>[C:1]1([H:10])([H:11])[N:3]([C:2]([H:12])([H:13])[H:14])[C:4]1([N:5]([H:8])[H:9])[C:6]([H:7])([H:15])[H:16],61.95934999997732
MR_499476_1,[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:13])([H:17])[H:18])(/[C:5](=[C:6](\[C:4]([H:19])([H:20])[H:21])[O:9][H:12])[O:8][H:11])[O:7][H:10]>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:13])([H:17])[H:18])=[C:5]([C:6]([C:4]([H:19])([H:20])[H:21])([O:7][H:10])[O:9][H:12])[O:8][H:11],58.647404999956905
MR_690537_1,[C:1]([C:5]([N:4]([C:3]([H:17])([H:18])[H:19])[H:11])([O:7][C:2]([H:14])([H:15])[H:16])[O:9][H:10])([N:6]([H:12])[H:13])=[O:8]>>[C:1]([C:5]([N:4]([C:3]([H:17])([H:18])[H:19])[H:11])=[O:9])([N:6]([H:12])[H:13])([O:7][C:2]([H:14])([H:15])[H:16])[O:8][H:10],31.621607499955218
